US05155250
2,6-Dimethyl-4[(trimethylsilyl)methoxy]phenol
Mix 2,6-dimethylhydroquinone (1.4 g, 10 mmol), potassium carbonate (1.4 g, 10 mmol), chloromethyltrimethylsilane (1.9 g, 10 mmol) and dimethylformamide (50 mL). Stir at room temperature under inert atmosphere until the reaction is complete. Dilute the mixture with ice-water and extract with ethyl ether. Wash the ethereal layer with water, then brine and filter through fluorosil-Na2SO4. Evaporate to give the title compound and purify by silica gel chromatography.

reactant | 2,6-dimethylhydroquinone | 10 mmol, 1.4 g | CC1=C(O)C(=CC(=C1)O)C | C8H10O2
reactant | potassium carbonate | 10 mmol, 1.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | chloromethyltrimethylsilane | 10 mmol, 1.9 g | ClC[Si](C)(C)C | C4H11ClSi
solvent | dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
product | 2,6-Dimethyl-4[(trimethylsilyl)methoxy]phenol | CC1=C(C(=CC(=C1)OC[Si](C)(C)C)C)O | C12H20O2Si
